US08232312B2
6-nitro-1H-indole-3-carbonitrile
6.1 g 6-nitro-1H-indole are dissolved in 100 ml acetonitrile and cooled to 0° C. A solution of 3.2 ml chlorosulphonyl isocyanate in 25 ml acetonitrile is added dropwise and the mixture is stirred for 2 hours. Then a solution of 5 ml triethylamine in 25 ml acetonitrile is added dropwise. The mixture is stirred for 1 hour at ambient temperature and for 50 minutes at 80° C. Then the solvents are eliminated in vacuo, the residue is extracted from cold water, the solid is suction filtered and washed successively with water, saturated sodium hydrogen carbonate solution and water. The solid thus obtained is dried in the desiccator. Then the solid is taken up in 500 ml dichloromethane/methanol 95:5 and stirred with some aluminium oxide. It is suction filtered through a thin layer of aluminium oxide and washed with 400 ml dichloromethane/methanol 95:5. The filtrate is evaporated down in vacuo and the residue is dried in vacuo.

reactant | 6-nitro-1H-indole | 6.1 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | chlorosulphonyl isocyanate | 3.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 6-nitro-1H-indole-3-carbonitrile | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C#N | C9H5N3O2
